### PR TITLE
lemmas from MathComp-Analysis (when releasing 1.12.0)

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Minimal TODO list

- [x] added changelog entries with `doc/changelog/make-entry.sh`

~~- [ ] added corresponding documentation in the headers~~
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [x] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: doc/changelog/01-added/1444-unstable_20250703.md [hunk 1]
```diff
@@ -0,0 +1,8 @@
+- in `whatfile`
+  + Describe your change here but do not end with a period
+    for instance: lemmas `lem1`, `lem2` and `lem3`
+    ([#1444](https://github.com/math-comp/math-comp/pull/1444),
+    fixes lemmas
+    and from
+    and MathComp-Analysis'
+    and unstable).
```
Comment (proux01) [inline doc/changelog/01-added/1444-unstable_20250703.md]: This probably need some edit?

File: algebra/num_theory/numdomain.v [hunk 2]
```diff
@@ -995,9 +995,13 @@ Proof. by case/orP=> /andP []; [apply: paddr_eq0 | apply: naddr_eq0]. Qed.
 
 (* big sum and ler *)
 Lemma sumr_ge0 I (r : seq I) (P : pred I) (F : I -> R) :
-  (forall i, P i -> (0 <= F i)) -> 0 <= \sum_(i <- r | P i) (F i).
+  (forall i, P i -> 0 <= F i) -> 0 <= \sum_(i <- r | P i) (F i).
 Proof. exact: (big_ind _ _ (@ler_wpDl 0)). Qed.
 
+Lemma sumr_le0 I (r : seq I) (P : pred I) (F : I -> R) :
+  (forall i, P i -> F i <= 0) -> \sum_(i <- r | P i) F i <= 0.
+Proof. by move=> F0; elim/big_rec : _ => // i x Pi; exact/ler_wnDl/F0. Qed.
```
Comment (proux01) [inline algebra/num_theory/numdomain.v]: Why does that proof seem much more complex than the one above?

File: doc/changelog/01-added/1444-unstable_20250703.md (hunk 1 above)
Comment (affeldt-aist) [reply doc/changelog/01-added/1444-unstable_20250703.md]: Mmmhhh.... I didn't realize this file was commited. (This is not the file I edited indeed, I'm afraid that the interface of the script that generated these files is not that natural.)

File: algebra/num_theory/numdomain.v (hunk 2 above)
Comment (affeldt-aist) [reply algebra/num_theory/numdomain.v]: We can write this as a proof also:
```coq
exact: (big_ind (fun r => r <= 0) _ (fun _ _ => ler_wnDl (z := 0))).
```
Maybe the order of arguments is less appropriote in that case.

Comment (proux01) [reply algebra/num_theory/numdomain.v]: Ok, looks like we can't do much better indeed.
